US06211378B1
1-(3-Phenylallyloxy)-4-benzoyloxy-2,2,6,6-tetramethylpiperidine
A mixture of 1.0 g (3.6 mmol) of 1-oxyl-4-benzoyloxy-2,2,6,6-tetramethylpiperidine and 10 g (85 mmol) of β-methylstyrene under a nitrogen atmosphere is heated at 120° C. for 36 hours. The reaction mixture is concentrated in vacuo and the title compound is isolated after column chromatograph as a white solid, melting at 115-116° C.

reactant | 1-oxyl-4-benzoyloxy-2,2,6,6-tetramethylpiperidine | 3.6 mmol, 1.0 g | ON1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C | C16H23NO3
reactant | β-methylstyrene | 85 mmol, 10 g | CC=CC1=CC=CC=C1 | C9H10
product | 1-(3-Phenylallyloxy)-4-benzoyloxy-2,2,6,6-tetramethylpiperidine | C1(=CC=CC=C1)C=CCON1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C | C25H31NO3
